data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(C)c(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2F)C(=N)C=C1", "products": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1cc(C)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(C)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(C)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(C)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(C)c2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(C)c2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(C)c2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(C(=O)C2C3CCC2C3)ccc1C", "products": "COc1cc([C]([O])C2C3CCC2C3)ccc1C"}, {"reactants": "COc1cc([C]([O])C2C3CCC2C3)ccc1C", "products": "COc1cc(C([O])=CC2C[CH]CC2)ccc1C"}, {"reactants": "COc1cc(C([O])=CC2C[CH]CC2)ccc1C", "products": "COc1cc(C(O)=CC2C=CCC2)ccc1C"}, {"reactants": "COc1cc(C(O)=CC2C=CCC2)ccc1C", "products": "COc1cc(C(=O)CC2C=CCC2)ccc1C"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OCC(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2", "products": "COC12OCC(O1)C1C(=O)C12"}, {"reactants": "COC12OCC(O1)C1C(=O)C12.[O-]C", "products": "COC12OCC(O1)C1C2C1([O-])OC"}, {"reactants": "COC12OCC(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2COC1(OC)O2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OC)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OC)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OC)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OC)CC1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1c(Cl)cccc1C(=O)C1C2CCC1C2", "products": "Cc1c(Cl)cccc1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1c(Cl)cccc1[C]([O])C1C2CCC1C2", "products": "Cc1c(Cl)cccc1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1c(Cl)cccc1C([O])=CC1C[CH]CC1", "products": "Cc1c(Cl)cccc1C(O)=CC1C=CCC1"}, {"reactants": "Cc1c(Cl)cccc1C(O)=CC1C=CCC1", "products": "Cc1c(Cl)cccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(F)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1cc(F)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1cc(F)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(F)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1cc(F)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(F)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1cc(F)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1cc(F)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1cc(F)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1cc(F)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1cc(F)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1cc(F)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1cc(F)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1cc(F)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1cc(F)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1cc(F)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(Cl)CC(C(=O)OC)C(=O)C2"}]}
